US09255090B2
Synthesis of 8-(4-tert-Butoxycarbonylmethyl-2-isopropoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C32H36NO5F, MW=533.26)
A mixture under N2 of (4-chloro-3-isopropoxy-phenyl)-acetic acid tert-butyl ester (142 mg, 0.50 mmol, 1.00 eq.), 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (232 mg, 0.50 mmol, 1.00 eq.), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (18 mg, 0.03 mmol, 0.05 eq.) and potassium carbonate (138 mg, 1.00 mmol, 2.00 eq.) in toluene (2.5 mL) and water (0.25 mL) was stirred at 110° C. for 2 days. The mixture was allowed to cool to r.t., filtered through celite, and concentrated in vacuo. The residue was purified by flashmaster (column: 25 g, flow: 30 mL/min, 30 fractions of 30 mL, Heptane 100% to Heptane+20% AcOEt) to yield the title compound as a pale yellow oil.

reactant | (4-chloro-3-isopropoxy-phenyl)-acetic acid tert-butyl ester | 0.50 mmol, 142 mg, 1.00 eq. | C(C)(C)(C)OC(CC1=CC(=C(C=C1)Cl)OC(C)C)=O | C15H21ClO3
reactant | 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.50 mmol, 232 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)B1OC(C(O1)(C)C)(C)C | C23H27BFNO4
reactant | potassium carbonate | 1.00 mmol, 138 mg, 2.00 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.25 mL | O | H2O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.03 mmol, 18 mg, 0.05 eq. | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 8-(4-tert-Butoxycarbonylmethyl-2-isopropoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC(C)C | C32H36FNO5
